US04954511
To a suspension of sodium hydride (2.2 g, 60% in oil) in 20 ml of dimethylformamide, was added a solution of 11.0 g of 4-hydroxy-4-(4-methylphenyl)-1-methylpiperidine in 50 ml of dimethylformamide. After heating to 85° C. for thirty minutes, the mixture was cooled with an ice-bath, and treated over a period of ten minutes with a solution of 7 ml of hexafluorobenzene in 20 ml of dimethylformamide. After stirring at ambient temperature for twenty hours, the mixture was poured into 200 ml water, stirred for five minutes, then extracted with ethyl acetate (2×). The organic layer was washed with water (2×), followed by a saturated solution of sodium chloride, and dried over anhydrous magnesium sulfate. After filtering, evaporation of the solvent afforded a residue which was purified by means of high pressure liquid chromatography (silica gel; elution with 10% methanol/dichloromethane). The desired fractions were combined, and evaporated to yield 13 g of (4-(4-methylphenyl)-1-methyl-4-(2,3,4,5,6-pentafluorophenoxy)piperidine as an oil.

reactant | sodium hydride | 2.2 g | [H-].[Na+]
reactant | 4-hydroxy-4-(4-methylphenyl)-1-methylpiperidine | 11.0 g | OC1(CCN(CC1)C)C1=CC=C(C=C1)C | C13H19NO
reactant | hexafluorobenzene | 7 ml | FC1=C(C(=C(C(=C1F)F)F)F)F | C6F6
reactant | water | 200 ml | O | H2O
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 4-(4-methylphenyl)-1-methyl-4-(2,3,4,5,6-pentafluorophenoxy)piperidine | CC1=CC=C(C=C1)C1(CCN(CC1)C)OC1=C(C(=C(C(=C1F)F)F)F)F | C19H18F5NO
